US08304552B2
(S)-methyl 2-((5Z,8Z,11Z,14Z,17Z)-eicosa-5,8,11,14,17-pentaenamido)-6-(nicotinamido)hexanoate (140 mg, 0.225 mmol) was taken up in 2 mL of THF along with an aqueous solution of NaOH (35 mg in 2 mL of H2O). The resulting reaction mixture was stirred at room temperature for 2 h. It was then acidified to pH 4 with 2 N HCl and then extracted with EtOAc. The combined organic layers were dried (Na2SO4) and concentrated under reduced pressure to afford 31 mg of (S)-2-((5Z,8Z,11Z,14Z,17Z)-eicosa-5,8,11,14,17-pentaenamido)-6-(nicotinamido)hexanoic acid. MS calculated for C34H47N3O4: 561.36. found: [M+H]+ 562. MS calculated for C32H45N3O4: 535.34. found: [M+H]+ 536.

reactant | (S)-methyl 2-((5Z,8Z,11Z,14Z,17Z)-eicosa-5,8,11,14,17-pentaenamido)-6-(nicotinamido)hexanoate | 0.225 mmol, 140 mg | C(CCC\C=C/C\C=C/C\C=C/C\C=C/C\C=C/CC)(=O)N[C@H](C(=O)OC)CCCCNC(C1=CN=CC=C1)=O | C33H47N3O4
reactant | NaOH | 2 mL, 35 mg | [OH-].[Na+]
reactant | HCl | 2 N | Cl | ClH
solvent | THF | 2 mL | C1CCOC1 | C4H8O
product | (S)-2-((5Z,8Z,11Z,14Z,17Z)-eicosa-5,8,11,14,17-pentaenamido)-6-(nicotinamido)hexanoic acid | 31 mg | C(CCC\C=C/C\C=C/C\C=C/C\C=C/C\C=C/CC)(=O)N[C@H](C(=O)O)CCCCNC(C1=CN=CC=C1)=O | C32H45N3O4
